US04735940
(aae) 19.6 g of 2,3-dihydro-4H-thieno[2,3-e][1,3]-thiazin-4-one were heated under reflux together with 23.1 g of Lawesson reagent in 200 ml of acetonitrile until all of the starting material reacted. The reaction mixture was cooled and the crystallized-out product was removed by filtration. By recrystallization from ethyl acetate there was obtained pure 2,3-dihydro-4H-thieno[2,3-e][1,3]thiazine-4-thione of m.p. 136°-138°. Additional material can be obtained by evaporation of the mother liquor and recrystallization.

reactant | 2,3-dihydro-4H-thieno[2,3-e][1,3]-thiazin-4-one | 19.6 g | S1CNC(C2=C1C=CS2)=O | C6H5NOS2
reactant | Lawesson reagent | 23.1 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2,3-dihydro-4H-thieno[2,3-e][1,3]thiazine-4-thione | S1CNC(C2=C1C=CS2)=S | C6H5NS3
